US09290511B2
Nitrogen gas was bubbled through a mixture of 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine (1 g, 4.06 mmol), 1-(2-prop-2-ynoxyethyl)pyrrolidine (1.53 g, 10 mmol), bistriphenylphosphine palladium (II) dichloride (180 mg, 0.25 mmol), triethylamine (3.5 mL, 25 mmol), copper (I) iodide (75 mg, 0.4 mmol) in THF (20 mL) for 5 minutes. The reaction was then heated at 100° C. for 60 minutes in a microwave. The reaction was then diluted with ethyl acetate (50 ml) and water (50 ml) and shaken. The ethyl acetate layer was then separated, dried over sodium sulphate and concentrated in vacuum to a gum. The gum was chromatographed on silica in a gradient of 2-15% methanol in dichloromethane. A peak eluted in about 8-12% methanol in dichloromethane to give 5-phenyl-4-[3-(2-pyrrolidine-1-ylethoxy)prop-1-ynyl]thieno[2,3-d]pyrimidine as a gum. (55 mg, 0.15 mmol, 3.7%). LCMS [M+H]+=364; RT=3.04 min.

reactant | 4-chloro-5-phenyl-thieno[2,3-d]pyrimidine | 4.06 mmol, 1 g | ClC=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C12H7ClN2S
reactant | 1-(2-prop-2-ynoxyethyl)pyrrolidine | 10 mmol, 1.53 g | C(C#C)OCCN1CCCC1 | C9H15NO
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | copper (I) iodide | 0.4 mmol, 75 mg | [Cu]I
product | 5-phenyl-4-[3-(2-pyrrolidine-1-ylethoxy)prop-1-ynyl]thieno[2,3-d]pyrimidine | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)C#CCOCCN2CCCC2 | C21H21N3OS
